US04172198
A mixture of ethyl 2-(4-oxo-6-methyl-4H-pyran-3-yloxy)acetate (8.3 g) in 1 N sodium hydroxide (40 ml) was stirred at room temperature for 30 minutes. To the mixture was added further 1 N sodium hydroxide (6 ml) and the resultant mixture was stirred for 30 minutes. To the reaction mixture was added dropwise conc. hydrochloric acid (4 ml) under ice-cooling, and resulting crystals were collected by filtration, washed with water, and dried to give crystals (6.8 g) of 2-(4-oxo-6-methyl-4H-pyran-3-yloxy)acetic acid.

reactant | ethyl 2-(4-oxo-6-methyl-4H-pyran-3-yloxy)acetate | 8.3 g | O=C1C(=COC(=C1)C)OCC(=O)OCC | C10H12O5
reactant | hydrochloric acid | 4 ml | Cl | ClH
solvent | sodium hydroxide | 1 N, 40 ml | [OH-].[Na+]
solvent | sodium hydroxide | 1 N, 6 ml | [OH-].[Na+]
product | 2-(4-oxo-6-methyl-4H-pyran-3-yloxy)acetic acid | 6.8 g | O=C1C(=COC(=C1)C)OCC(=O)O | C8H8O5
